US06610734B2
5-Chloro-N-[(S)-2-hydroxy-1-(4-hydroxycyclohexyl)ethyl]thiophene-2-sulfonamide
To a solution of 4-hydroxy-L-phenylglycine (10 g, 60 mmole) in NaOH (20 mL, 3M) was added water (380 mL) and Raney nickel (30 g). The reaction mixture was hydrogenated at about 3 atm at 60 to 80° C. for 36 h in a hydrogen bomb. The reaction mixture was filtered through Celite and reduced in volume to about 80-100 mL and dioxane (100 mL) was added. The resulting mixture was cooled to 0° C. and treated with Et3N (10 mL) and 5-chlorothiophene-2-sulfonyl chloride (16 g, 72 mmoles). The reaction was allowed to warm up to 25° C. and stirred overnight. The dioxane and Et3N were removed and the remaining aqueous solution diluted with 1N aq. HCl. The resulting precipitate was collected, washed with water and diethyl ether to give the desired product as a white solid (12 g, 50% in two steps) (100% purity by ELSD, m/z=352 (M−1)).

reactant | 4-hydroxy-L-phenylglycine | 60 mmole, 10 g | OC1=CC=C(C=C1)NCC(=O)O | C8H9NO3
reactant | water | 380 mL | O | H2O
reactant | hydrogen | [H][H] | H2
reactant | 5-chlorothiophene-2-sulfonyl chloride | 72 mmoles, 16 g | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
reactant | Et3N | 10 mL | CCN(CC)CC | C6H15N
solvent | NaOH | 3M, 20 mL | [OH-].[Na+]
catalyst | Raney nickel | 30 g | [Ni] | Ni
product | 5-Chloro-N-[(S)-2-hydroxy-1-(4-hydroxycyclohexyl)ethyl]thiophene-2-sulfonamide | 12 g | ClC1=CC=C(S1)S(=O)(=O)N[C@H](CO)C1CCC(CC1)O | C12H18ClNO4S2
